US06821964B2
Preparation of 3-(Benzyl-ethoxycarbonylmethylamino) propionic acid ethyl ester (I-4a):
Ethyl N-benzylglycinate (0.1295 mol, 1 eq), ethyl acrylate (0.142 mol, 1.1 eq) and 155 μL of Triton™ B (available from Sigma-Aldrich, St. Louis, Mo.) were combined at room temperature under N2. The mixture was then heated to reflux overnight. An aliquot was removed and NMR spectrum was taken of the crude material. The product was present plus both starting materials. The excess of the ethyl acrylate was removed under vacuum at 10 mmHg (60° C. water bath). The crude amber oil that resulted was dissolved in 50 mL of CH2Cl2 and was charge onto a Biotage™ 75L cartridge and eluted with the following gradient 0.5% by volume acetone in hexanes, 1% (1200 mL), 1.5% (1200 mL) and 2.5% (3600 mL). The fractions containing the desired product were combined and concentrated to a colorless oil which was dried under high vacuum for 2 hours to afford 29 g (76%) of product (I-4a). 1H NMR spectrum (CDCl3) and LC/MS (294) were consistent with the compound I-4a.

reactant | Ethyl N-benzylglycinate | 0.1295 mol, 1 eq | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
reactant | ethyl acrylate | 0.142 mol, 1.1 eq | C(C=C)(=O)OCC | C5H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(Benzyl-ethoxycarbonylmethylamino) propionic acid ethyl ester | 29 g, 76% | C(C)OC(CCN(CC(=O)OCC)CC1=CC=CC=C1)=O | C16H23NO4
